US04948902
1-methyl-3-hydroxy-5-trifluoromethylpyrazole
A mixture of 33.82 g (0.20 mole) of methyl 4,4,4-trifluoro-3-amino-2-butenoate and 10.1 g (0.22 mole) of methylhydrazine was heated at 50° C. for 22.25 hr. The mixture was then cooled, and 15 ml. of water and about 12 ml. of conc. hydrochloric acid were added to bring the pH of the mixture to 6.5-7.0. The precipitated product was filtered off and dried to obtain 25.26 g (76% yield) of the product m.p. 130.5°-131° C.

reactant | methyl 4,4,4-trifluoro-3-amino-2-butenoate | 0.20 mole, 33.82 g | FC(C(=CC(=O)OC)N)(F)F | C5H6F3NO2
reactant | methylhydrazine | 0.22 mole, 10.1 g | CNN | CH6N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-methyl-3-hydroxy-5-trifluoromethylpyrazole | 25.26 g, 76% yield | CN1N=C(C=C1C(F)(F)F)O | C5H5F3N2O
